US07595325B2
40C. (5-Bromo-pyridin-3-yl)-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-methanone
n-BuLi (11.3 mL, 2.5 M in Hexane, 28.3 mmol) was added dropwise to a solution of 5-Bromo-4-chloro-7-triisopropylsilanyl-7H-pyrrolo[2,3-d]pyrimidine (10.0 g, 25.7 mmol) in Et2O (250 mL) at −78° C. and stirred for 0.5 h. 5-Bromo-nicotinoyl chloride (6.8 g, 30.8 mmol) was added to the reaction mixture slowly and stirred for 3 h, warmed to room temperature, and stirred for an additional 12 h. The reaction mixture was quenched with saturated aqueous NH4Cl (150 mL) and stirred for 30 min. The aqueous layer was extracted with EtOAc (3×150 mL) and the combined organic layers were washed with brine (300 mL), dried (Na2SO4), filtered, and concentrated in vacuo to provide a crude solid. Trituration with 2-propanol provided the title compound as a pure white solid (7.5 g, 86%). MS: 337.5/339.5 (MH+); HPLC Rf: 4.02 min. (HPLC method 4).

reactant | n-BuLi | 28.3 mmol, 2.5 M, 11.3 mL | [Li]CCCC
reactant | 5-Bromo-4-chloro-7-triisopropylsilanyl-7H-pyrrolo[2,3-d]pyrimidine | 25.7 mmol, 10.0 g | BrC1=CN(C=2N=CN=C(C21)Cl)[Si](C(C)C)(C(C)C)C(C)C | C15H23BrClN3Si
reactant | 5-Bromo-nicotinoyl chloride | 30.8 mmol, 6.8 g | BrC=1C=NC=C(C(=O)Cl)C1 | C6H3BrClNO
reactant | 2-propanol | CC(C)O | C3H8O
solvent | Et2O | 250 mL | CCOCC | C4H10O
product | (5-Bromo-pyridin-3-yl)-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-methanone | 7.5 g, 86% | BrC=1C=C(C=NC1)C(=O)C1=CNC=2N=CN=C(C21)Cl | C12H6BrClN4O
